2198-01-06 07:55:00 Physician Resident Progress Note
CCU Intern Progress Note
   24 Hour Events:
   - Right radial arterial line placed in PM
   - Comfortable overnight
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2198-1-6**] 06:20 AM
   Infusions:
   Midazolam (Versed) - 3 mg/hour
   Fentanyl - 50 mcg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2198-1-5**] 04:00 PM
   Heparin Sodium (Prophylaxis) - [**2198-1-6**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2198-1-6**] 07:51 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 37.8
C (100
   HR: 76 (58 - 90) bpm
   BP: 110/53(73) {98/42(60) - 137/63(91)} mmHg
   RR: 10 (10 - 25) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
             Total In:
                                                                    852 mL
                                                                    341 mL
   PO:
             TF:
   IVF:
                                                                    252 mL
                                                                    341 mL
   Blood products:
   Total out:
                                                                  1,267 mL
                                                                    320 mL
   Urine:
                                                                    655 mL
                                                                    320 mL
   NG:
                                                                     12 mL
   Stool:
   Drains:
   Balance:
                                                                   -415 mL
                                                                     21 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 650) mL
   Vt (Spontaneous): 189 (189 - 189) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI: 39
   PIP: 13 cmH2O
   Plateau: 0 cmH2O
   SpO2: 95%
   ABG: 7.40/37/115/28/0
   Ve: 9.7 L/min
   PaO2 / FiO2: 230
   Physical Examination
   GENERAL: Elderly man intubated, not responsive
   HEENT: NCAT. Sclera anicteric. Pupils 3mm -> 1 mm bilaterally. ET tube
   in place
   NECK: Supple with JVP of 9 cm.
   CARDIAC: PMI located in 5th intercostal space, midclavicular line. RR,
   normal S1, S2. Soft [**2-9**] late-systolic murmur.
   LUNGS: Decreased BS at bases, from anterior.
   ABDOMEN: Soft, BS present, no mass, no abdominial bruits.
   EXTREMITIES: No c/c/e. No femoral bruits.
   SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.
   PULSES:
   Right: Carotid 2+ Femoral 2+ Popliteal 2+ DP 2+ PT 2+
   Left: Carotid 2+ Femoral 2+ Popliteal 2+ DP 2+ PT 2+
   Labs / Radiology
   250 K/uL
   11.3 g/dL
   105 mg/dL
   2.1 mg/dL
   28 mEq/L
   3.9 mEq/L
   83 mg/dL
   113 mEq/L
   149 mEq/L
   32.3 %
   12.8 K/uL
        [image002.jpg]
                             [**2198-1-5**]  02:06 PM
                             [**2198-1-5**]  04:27 PM
                             [**2198-1-5**]  06:53 PM
                             [**2198-1-5**]  09:24 PM
                             [**2198-1-6**]  05:30 AM
                             [**2198-1-6**]  06:20 AM
   WBC
   15.4
   12.8
   Hct
   32.7
   32.3
   Plt
   228
   250
   Cr
   2.1
   TropT
   3.45
   2.88
   TCO2
   26
   26
   24
   Glucose
   105
   Other labs: PT / PTT / INR:13.9/24.9/1.2, CK / CKMB /
   Troponin-T:134/3/2.88, ALT / AST:76/67, Alk Phos / T Bili:123/4.4,
   Differential-Neuts:79.0 %, Band:1.0 %, Lymph:12.0 %, Mono:3.0 %,
   Eos:4.0 %, Lactic Acid:0.9 mmol/L, Albumin:2.9 g/dL, LDH:402 IU/L,
   Ca++:8.5 mg/dL, Mg++:3.2 mg/dL, PO4:3.5 mg/dL
   Assessment and Plan
   84-year-old man with a history of 4-vessel CABG in [**2185**], EF 35% with
   ICD placed in [**2194**], severe AS (area 0.6 cm2, gradient 33 mmHg) s/p
   valvuloplasty in [**5-/2197**], was transferred from OSH for heart failure
   with severe AS.
   .
   # PUMP: acute CHF exacerbation with pulmonary edema [**2-5**] AS, leading to
   respiratory failure requiring intubation.
   - monitor I/O closely; furosemide IV prn as needed, but only gently
   given severe AS
   .
   # RHYTHM: sinus, HR in 60s
   - BB if HR > 70
   .
   # VALVES: critical AS
   - TTE today
   - metoprolol IV prn for HR goal of 60s
   - discuss valvuloplasty utility with Dr. [**Last Name (STitle) 3213**] and family on Monday
   - gentle diuresis: net 24 hour goal of -500cc
   .
   # CORONARIES: resolving subendocardial ischemia. ECG with no ischemic
   changes. Elevated troponin, with non-elevated CK, likely due to CHF
   exacerbation, severe AS, and concurrent renal failure.
   - continue ASA 325 for now; will consider decreasing to 81 mg
   - restart BB if BP and HR tolerate
   .
   # ARF: likely renal hypoperfusion secondary to poor forward flow. Might
   also be due to contrast nephropathy from recent abd CT. FeBUN = 23 <
   50% (suggestive of prerenal etiology).
   - monitor urine output closely
   .
   # HYPERNATREMIA: Likely free water deficit from decreased PO intake.
   Free water deficit ~4L.
   - D5W @100cc/hr
   - check PM electrolytes
   .
   # SMALL BOWEL INFLAMMATION: ?perforated diverticulum. Not surgical
   candidate.
   - serial abd exams
   - continue pip-tazo for 14-day course (through [**2198-1-15**])
   - consider restarting TPN
   .
   # TRANSAMINITIS: likely due to hypoperfusion in setting of CHF and
   severe AS.
   - trend LFTs; fractionate bili
   - RUQ u/s ordered
   .
   # AMS: possibly [**2-5**] oversedation (fentanyl/midazolam) and
   hypernatremia.
   - will slowly correct hypernatremia
   - decrease fentanyl and midazolam dose to half
   .
   # ANEMIA: Hct 32 now, 39 in [**Month (only) 11**]. Combined iron-deficiency and anemia of
   chronic disease.
   - monitor Hct
   .
   # FEN: replete electrolytes, consider TPN
   .
   # ACCESS: R Radial A-line, D/c Midline peripheral and plan for PICC
   placement
   .
   # Dispo: pending
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Midline - [**2198-1-5**] 01:00 PM
   20 Gauge - [**2198-1-5**] 01:08 PM
   Arterial Line - [**2198-1-5**] 04:57 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2198-01-07 05:52:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 TRANSTHORACIC ECHO - At [**2198-1-6**] 09:42 AM
 MIDLINE - STOP [**2198-1-6**] 12:28 PM
 ULTRASOUND - At [**2198-1-6**] 12:42 PM
 FEVER - 101.6
F - [**2198-1-6**] 08:00 AM
   - PM labs showed Na improving to 147.
   - PICC could not be placed [**2-5**] fevers
   - additional PIV obtained; midline pulled
   - re-cultured for fever 100.4
   - RUQ US showed no biliary ductal dilatation, s/p cholecystectomy
   - TTE done, confirming known AS, EF 30-35%
   - IV D5W d/c-ed, as patient was net in >500 cc and Na improved
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2198-1-7**] 12:04 AM
   Infusions:
   Fentanyl - 2.5 mcg/hour
   Midazolam (Versed) - 2 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2198-1-6**] 04:57 PM
   Heparin Sodium (Prophylaxis) - [**2198-1-7**] 12:04 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2198-1-7**] 05:49 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.7
C (101.6
   Tcurrent: 38.4
C (101.2
   HR: 65 (65 - 102) bpm
   BP: 107/43(64) {102/41(61) - 129/58(84)} mmHg
   RR: 12 (10 - 23) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
             Total In:
                                                                  2,015 mL
                                                                    628 mL
   PO:
             TF:
   IVF:
                                                                  1,660 mL
                                                                    386 mL
   Blood products:
   Total out:
                                                                  1,125 mL
                                                                    175 mL
   Urine:
                                                                  1,125 mL
                                                                    175 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    890 mL
                                                                    453 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 232 (232 - 723) mL
   PS : 8 cmH2O
   RR (Set): 16
   RR (Spontaneous): 15
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI: 24
   PIP: 16 cmH2O
   SpO2: 96%
   ABG: 7.41/44/131/27/3
   Ve: 8.5 L/min
   PaO2 / FiO2: 262
   Physical Examination
   GENERAL: Elderly man intubated, not responsive
   HEENT: NCAT. Sclera anicteric. Pupils reactive bilaterally. ET tube in
   place
   NECK: Supple with JVP of 9 cm.
   CARDIAC: PMI located in 5th intercostal space, midclavicular line. RR,
   normal S1, S2. Soft [**2-9**] late-systolic murmur.
   LUNGS: Decreased BS at bases, from anterior.
   ABDOMEN: Soft, BS present, no mass, no abdominial bruits.
   EXTREMITIES: No c/c/e. No femoral bruits.
   SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.
   PULSES:
   Right: Carotid 2+ Femoral 2+ Popliteal 2+ DP 2+ PT 2+
   Left: Carotid 2+ Femoral 2+ Popliteal 2+ DP 2+ PT 2+
   Labs / Radiology
   250 K/uL
   11.2 g/dL
   141 mg/dL
   1.4 mg/dL
   28 mEq/L
   3.9 mEq/L
   57 mg/dL
   112 mEq/L
   145 mEq/L
   32.0 %
   12.8/uL
        [image002.jpg]
                             [**2198-1-5**]  02:06 PM
                             [**2198-1-5**]  04:27 PM
                             [**2198-1-5**]  06:53 PM
                             [**2198-1-5**]  09:24 PM
                             [**2198-1-6**]  05:30 AM
                             [**2198-1-6**]  06:20 AM
                             [**2198-1-6**]  03:11 PM
                             [**2198-1-6**]  04:54 PM
                             [**2198-1-7**]  05:19 AM
                             [**2198-1-7**]  05:26 AM
   WBC
   15.4
   12.8
   13.5
   Hct
   32.7
   32.3
   32.0
   Plt
   [**Telephone/Fax (3) 3223**]
   Cr
   2.1
   1.6
   1.5
   TropT
   3.45
   2.88
   2.93
   TCO2
   26
   26
   24
   28
   29
   Glucose
   105
   83
   141
   Other labs: PT / PTT / INR:13.9/24.9/1.2, CK / CKMB /
   Troponin-T:121/3/2.93, ALT / AST:68/70, Alk Phos / T Bili:135/3.8,
   Differential-Neuts:79.0 %, Band:1.0 %, Lymph:12.0 %, Mono:3.0 %,
   Eos:4.0 %, Lactic Acid:0.9 mmol/L, Albumin:2.9 g/dL, LDH:344 IU/L,
   Ca++:8.2 mg/dL, Mg++:3.0 mg/dL, PO4:3.7 mg/dL
   Assessment and Plan
 .H/O INTESTINE, PERFORATION OF (PERFORATION OF HOLLOW VISCUS)
 HEART FAILURE (CHF), SYSTOLIC, ACUTE ON CHRONIC
 IMPAIRED PHYSICAL MOBILITY
 AORTIC STENOSIS
   84-year-old man with a history of 4-vessel CABG in [**2185**], EF 35% with
   ICD placed in [**2194**], severe AS (area 0.6 cm2, gradient 33 mmHg) s/p
   valvuloplasty in [**5-/2197**], was transferred from OSH for heart failure
   with severe AS.
   .
   # PUMP: acute CHF exacerbation with pulmonary edema [**2-5**] AS, leading to
   respiratory failure requiring intubation.
   -monitor I/O closely; furosemide 10 IV prn as needed, but only gently
   given severe AS
   -goal neg 500 today
   .
   # RHYTHM: sinus, HR in 60s
   - BB if HR > 60
   .
   # VALVES: critical AS
   - TTE showed 35-40%, Aortic area of 0.7cm2
   - metoprolol IV prn for HR goal of 60s
   - discuss valvuloplasty utility with Dr. [**Last Name (STitle) 3213**] and family on Monday
   - gentle diuresis: net 24 hour goal of -500cc
   .
   # CORONARIES: resolving subendocardial ischemia. ECG with no ischemic
   changes. Elevated troponin, with non-elevated CK, likely due to CHF
   exacerbation, severe AS, and concurrent renal failure.
   - continue ASA 325 for now; will consider decreasing to 81 mg
   - restart BB if BP and HR tolerate
   .
   # ARF: likely renal hypoperfusion secondary to poor forward flow. Might
   also be due to contrast nephropathy from recent abd CT. FeBUN = 23 <
   50% (suggestive of prerenal etiology).
   - monitor urine output closely
   .
   # HYPERNATREMIA: Likely free water deficit from decreased PO intake.
   Free water deficit ~4L.
   - D5W @100cc/hr
   - check PM electrolytes
   .
   # Fever: unclear source, temp started [**2197-1-5**], cultures sent, pt on
   zosyn. Possible relation to small bowel infection vs other infection;
   foley with hematuria. Mid-line removed [**1-6**]- tip sent for cx.
   -pan culture this AM- sputum, urine, blood
   -low threshold for broader abx coverage
   -replace foley
   -PICC not to be placed until no fever
   .
   # SMALL BOWEL INFLAMMATION: ?perforated diverticulum. Not surgical
   candidate.
   - serial abd exams
   - continue pip-tazo for 14-day course (through [**2198-1-15**])
   - restarted on PPN [**2197-1-5**]
    .
   # TRANSAMINITIS: likely due to hypoperfusion in setting of CHF and
   severe AS.
   - trend LFTs; fractionate bili
   - RUQ u/s WNL
   .
   # AMS: possibly [**2-5**] oversedation (fentanyl/midazolam) and
   hypernatremia.
   - hypernatremia slowly improving
   - on decreased fentanyl and midazolam doses
   .
   # ANEMIA: Hct 32 now, 39 in [**Month (only) 11**]. Combined iron-deficiency and anemia of
   chronic disease.
   - monitor Hct
   .
   # FEN: replete electrolytes, PPN reordered
   .
   # ACCESS: R Radial A-line, plan for PICC placement when no fevers
   .
   # Dispo: pending
   ICU Care
   Nutrition:
   Peripheral Parenteral Nutrition - [**2198-1-6**] 03:34 PM 42 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2198-1-5**] 04:57 PM
   20 Gauge - [**2198-1-6**] 02:29 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2198-01-08 05:51:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 FEVER - 101.8
F - [**2198-1-7**] 08:00 AM
   -PPN continued
   -had fever, PICC held, pan-cultured (blood, urine, sputum)
   -LFTs improved
   -gave lasix 20IV x 1
   -irrigated foley, but still had some hematuria on repeat UA
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2198-1-7**] 11:41 PM --- DAY #8
   Infusions:
   Fentanyl - 2.5 mcg/hour
   Midazolam (Versed) - 2 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2198-1-7**] 06:51 PM
   Heparin Sodium (Prophylaxis) - [**2198-1-7**] 11:41 PM
   Other medications:
   Aspirin 325mg PO daily
   Lopressor 5mg IV q8h
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2198-1-8**] 05:50 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.8
C (101.8
 8am [**1-7**]
   Tcurrent: 37.1
C (98.8
   HR: 63 (56 - 79) bpm
   BP: 109/47(68) {102/44(62) - 147/64(95)} mmHg
   RR: 12 (10 - 23) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
             Total In:
                                                                  2,100 mL
                                                                    314 mL
   PO:
             TF:
   IVF:
                                                                  1,090 mL
                                                                     71 mL
   Blood products:
   Total out:
                                                                  1,425 mL
                                                                    110 mL
   Urine:
                                                                  1,425 mL
                                                                    110 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    675 mL
                                                                    204 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 551 (551 - 650) mL
   PS : 8 cmH2O
   RR (Spontaneous): 14
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI: 34
   PIP: 16 cmH2O
   SpO2: 97%
   ABG: 7.41/43/113/28/1
   Ve: 7.7 L/min
   PaO2 / FiO2: 283
   Physical Examination
   GENERAL: Elderly man intubated, not responsive
   HEENT: NCAT. Sclera anicteric. Pupils reactive bilaterally. ET tube in
   place
   NECK: Supple with JVP of 9 cm.
   CARDIAC: PMI located in 5th intercostal space, midclavicular line. RR,
   normal S1, soft S2. Soft [**2-9**] late-systolic murmur.
   LUNGS: Decreased BS at bases, from anterior.
   ABDOMEN: Soft, BS present, no mass, no abdominial bruits.
   EXTREMITIES: No c/c/e. No femoral bruits.
   SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.
   PULSES:
   Right: Carotid 2+ Femoral 2+ Popliteal 2+ DP 2+ PT 2+
   Left: Carotid 2+ Femoral 2+ Popliteal 2+ DP 2+ PT 2+
   Labs / Radiology
   285 K/uL
   11.1 g/dL
   125 mg/dL
   1.3 mg/dL
   28 mEq/L
   4.1 mEq/L
   50 mg/dL
   112 mEq/L
   145 mEq/L
   32.7 %
   11.8 K/uL
        [image002.jpg]
                             [**2198-1-6**]  05:30 AM
                             [**2198-1-6**]  06:20 AM
                             [**2198-1-6**]  03:11 PM
                             [**2198-1-6**]  04:54 PM
                             [**2198-1-7**]  05:19 AM
                             [**2198-1-7**]  05:26 AM
                             [**2198-1-7**]  02:17 PM
                             [**2198-1-7**]  02:37 PM
                             [**2198-1-8**]  04:34 AM
                             [**2198-1-8**]  04:47 AM
   WBC
   12.8
   13.5
   11.8
   Hct
   32.3
   32.0
   32.7
   Plt
   [**Telephone/Fax (3) 3250**]
   Cr
   1.6
   1.5
   1.4
   1.4
   1.3
   TropT
   2.93
   TCO2
   24
   28
   29
   27
   28
   Glucose
   83
   141
   133
   126
   125
   Other labs:
   Differential-Neuts:70.0 %, Band:1.0 %, Lymph:12.0 %, Mono:10.0 %,
   Eos:3.0 %,
   PT / PTT / INR:13.6/30.1/1.2,
   ALT / AST:59/56, Alk Phos / T Bili:136/3.4, Lactic Acid:0.9 mmol/L,
   Albumin:2.8 g/dL, LDH:308 IU/L,
   Ca++:8.5 mg/dL, Mg++:2.9 mg/dL, PO4:3.1 mg/dL
   Micro: Bl cx
 NGTD, UCx
 NGTD
   Assessment and Plan
   84M w CAD (s/p CABGx4), chr sys CHF (EF 35% s/p ICD), severe AS (area
   0.6 cm2, gradient 33 mmHg, s/p valvuloplasty in [**5-/2197**]), who was
   transferred from OSH for acute CHF exacerbation [**2-5**] severe AS in the
   setting of likely small bowel perforation/peritonitis.
   .
   # PUMP: acute on chronic systolic CHF exacerbation with pulmonary edema
   [**2-5**] AS, leading to respiratory failure requiring intubation. Has been
   net positive by number, though hard to assess given insensible losses
   from fevers.
   - strict I/O
   - gentle diuresis given AS (furosemide 10 IV prn) to goal net UOP
   -500cc per day
   - on metoprolol
   .
   # RHYTHM: sinus, HR in 60s
   - on metoprolol, IV PRN hold if HR <60
   .
   # VALVES: critical AS
   - TTE showed LVEF 35-40%, Aortic area of 0.7cm2 (1/3/9)
   - metoprolol IV prn for HR goal of 60s
   - discuss valvuloplasty utility with Dr. [**Last Name (STitle) 3213**] and family on Monday
   - gentle diuresis: net 24 hour goal of -500cc
   .
   # CORONARIES: resolving subendocardial ischemia. ECG with no ischemic
   changes. Elevated troponin, with non-elevated CK, likely due to CHF
   exacerbation, severe AS, and concurrent renal failure.
   - continue ASA 325 for now; will consider decreasing to 81 mg
   - restart BB if BP and HR tolerate
   .
   # ARF: likely renal hypoperfusion secondary to poor forward flow. Might
   also be due to contrast nephropathy from recent abd CT. FeBUN = 23 <
   50% (suggestive of prerenal etiology).
   - monitor urine output closely
   .
   # HYPERNATREMIA: Likely free water deficit from decreased PO intake.
   Free water deficit ~4L.
   - D5W @100cc/hr
   - check PM electrolytes
   .
   # Fever: unclear source, temp started [**2197-1-5**], cultures sent, pt on
   zosyn. Possible relation to small bowel infection vs other infection;
   foley with hematuria. Mid-line removed [**1-6**]- tip sent for cx.
   -pan culture this AM- sputum, urine, blood
   -low threshold for broader abx coverage
   -replace foley
   -PICC not to be placed until no fever
   .
   # SMALL BOWEL INFLAMMATION: ?perforated diverticulum. Not surgical
   candidate.
   - serial abd exams
   - continue pip-tazo for 14-day course (through [**2198-1-15**])
   - restarted on PPN [**2197-1-5**]
    .
   # TRANSAMINITIS: likely due to hypoperfusion in setting of CHF and
   severe AS.
   - trend LFTs; fractionate bili
   - RUQ u/s WNL
   .
   # AMS: possibly [**2-5**] oversedation (fentanyl/midazolam) and
   hypernatremia.
   - hypernatremia slowly improving
   - on decreased fentanyl and midazolam doses
   .
   # ANEMIA: Hct 32 now, 39 in [**Month (only) 11**]. Combined iron-deficiency and anemia of
   chronic disease.
   - monitor Hct
   .
   # FEN: replete electrolytes, PPN reordered
   .
   # ACCESS: R Radial A-line, plan for PICC placement when no fevers
   .
   # Dispo: pending
   ICU Care
   Nutrition:
   Peripheral Parenteral Nutrition - [**2198-1-7**] 03:19 PM 42 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2198-1-5**] 04:57 PM
   20 Gauge - [**2198-1-6**] 02:29 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2198-01-09 06:45:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - attempted weaning from mechanical ventilation, however, with PEEP =
   0, pt hypoxemia to pO2 = 68 (110s on PEEP of [**5-13**])
   - further diuresed lasix 10mg IV x2
 net -1L out in 24-hours
   - PPN continued
   - PICC line could not be placed b/c of fever on [**1-7**]/9
   - bl cx at OSH [**Date Range 3266**]
   - Dr [**Last Name (STitle) 3213**] will see today regarding valvuloplasty
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2198-1-9**] 04:00 AM
   Infusions:
   Midazolam (Versed) - 1 mg/hour
   Fentanyl - 25 mcg/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2198-1-8**] 02:04 PM
   Midazolam (Versed) - [**2198-1-8**] 10:15 PM
   Fentanyl - [**2198-1-8**] 10:15 PM
   Heparin Sodium (Prophylaxis) - [**2198-1-9**] 12:16 AM
   Metoprolol - [**2198-1-9**] 04:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2198-1-9**] 06:38 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 37.2
C (98.9
   HR: 74 (60 - 114) bpm
   BP: 120/50(74) {106/42(63) - 164/75(110)} mmHg
   RR: 17 (9 - 24) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
             Total In:
                                                                  2,397 mL
                                                                    488 mL
   PO:
                                                                     20 mL
             TF:
   IVF:
                                                                  1,515 mL
                                                                    210 mL
   Blood products:
   Total out:
                                                                  3,417 mL
                                                                    330 mL
   Urine:
                                                                  2,467 mL
                                                                    330 mL
   NG:
                                                                    950 mL
   Stool:
   Drains:
   Balance:
                                                                 -1,020 mL
                                                                    158 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 661 (474 - 661) mL
   PS : 5 cmH2O
   RR (Spontaneous): 11
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 54
   PIP: 11 cmH2O
   SpO2: 93%
   ABG: 7.44/38/91.[**Numeric Identifier **]/27/1
   Ve: 7.6 L/min
   PaO2 / FiO2: 230
   Physical Examination
   GENERAL: Elderly man intubated, not responsive
   HEENT: NCAT. Sclera anicteric. Pupils reactive bilaterally. ET tube in
   place
   NECK: Supple with JVP of 9 cm.
   CARDIAC: PMI located in 5th intercostal space, midclavicular line. RR,
   normal S1, soft S2. Soft [**2-9**] late-systolic murmur.
   LUNGS: Decreased BS at bases, from anterior.
   ABDOMEN: Soft, BS present, no mass, no abdominial bruits.
   EXTREMITIES: No c/c/e. No femoral bruits.
   SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.
   PULSES:
   Right: Carotid 2+ Femoral 2+ Popliteal 2+ DP 2+ PT 2+
   Left: Carotid 2+ Femoral 2+ Popliteal 2+ DP 2+ PT 2+
   Labs / Radiology
   332 K/uL
   11.9 g/dL
   114 mg/dL
   1.2 mg/dL
   27 mEq/L
   4.0 mEq/L
   42 mg/dL
   107 mEq/L
   140 mEq/L
   34.5 %
   14.9 K/uL
        [image002.jpg]
                             [**2198-1-7**]  02:17 PM
                             [**2198-1-7**]  02:37 PM
                             [**2198-1-8**]  04:34 AM
                             [**2198-1-8**]  04:47 AM
                             [**2198-1-8**]  02:38 PM
                             [**2198-1-8**]  04:13 PM
                             [**2198-1-9**]  04:08 AM
                             [**2198-1-9**]  04:20 AM
                             [**2198-1-9**]  05:04 AM
                             [**2198-1-9**]  06:09 AM
   WBC
   11.8
   14.9
   Hct
   32.7
   34.5
   Plt
   285
   332
   Cr
   1.4
   1.3
   1.2
   TCO2
   27
   28
   29
   26
   29
   29
   27
   Glucose
   126
   125
   114
   Other labs: PT / PTT / INR:13.6/30.1/1.2, CK / CKMB /
   Troponin-T:121/3/2.93, ALT / AST:59/56, Alk Phos / T Bili:136/3.4,
   Differential-Neuts:70.0 %, Band:1.0 %, Lymph:12.0 %, Mono:10.0 %,
   Eos:3.0 %, Lactic Acid:0.8 mmol/L, Albumin:2.8 g/dL, LDH:308 IU/L,
   Ca++:8.5 mg/dL, Mg++:2.5 mg/dL, PO4:3.3 mg/dL
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 .H/O INTESTINE, PERFORATION OF (PERFORATION OF HOLLOW VISCUS)
 HEART FAILURE (CHF), SYSTOLIC, ACUTE ON CHRONIC
 IMPAIRED PHYSICAL MOBILITY
 AORTIC STENOSIS
   84M w CAD (s/p CABGx4), chr sys CHF (EF 35% s/p ICD), severe AS (area
   0.6 cm2, gradient 33 mmHg, s/p valvuloplasty in [**5-/2197**]), who was
   transferred from OSH for acute CHF exacerbation [**2-5**] severe AS in the
   setting of likely small bowel perforation/peritonitis.
   .
   # PUMP: acute on chronic systolic CHF exacerbation with pulmonary edema
   [**2-5**] AS, leading to respiratory failure requiring intubation.  Net
   negative 1 L yesterday.
   - strict I/O
   - change Metoprolol to PO; uptitrate PRN
   - gentle diuresis: net 24 hour goal of -500cc (furosemide 10 IV prn)
   .
   #RESPIRATORY FAILURE:  likely [**2-5**] CHF exacerbation.  Failed attempt to
   wean from ventilator yesterday.  RSBI 54 this morning.
   -extubate today
   .
   # RHYTHM: sinus
   -continue Metoprolol, now PO
   -consider uptitrating Metoprolol for HR 60
   .
   # VALVES: critical AS - TTE showed LVEF 35-40%, Aortic area of 0.7cm2
   ([**2198-1-6**])
   - metoprolol IV prn for HR goal of 60s
   - discuss valvuloplasty utility with Dr. [**Last Name (STitle) 3213**] and family on Monday
   - gentle diuresis: net 24 hour goal of -500cc (furosemide 10 IV prn)
   .
   # CORONARIES: Hx CABG.  Currently no acute ischemia, resolving
   subendocardial ischemia with Trp leak in the setting of CHF
   exacerbation, severe AS, and concurrent renal failure.
   - continue ASA 81mg PO daily
   - continue  Metoprolol
   .
   # FEVER: unclear source likely [**2-5**] possible peritonitis/small bowel
   perforation. Fever started [**2197-1-5**], cultures [**Name (NI) 3266**], pt now afebrile for
   24-hrs on Zosyn.   CX from OSH [**Name (NI) 3266**].
   - f.u cxs from OSH
   - f/u cultures (bl, urine, sputum)
   - PICC placement today
   - if T > 101, CT A/P w contrast to look for abscesses
   .
   # SMALL BOWEL INFLAMMATION:  Not surgical candidate.
   - serial abd exams
   - continue pip-tazo for 14-day course (through [**2198-1-15**])
   - restarted on PPN [**2197-1-5**]; change to TPN today after PICC placed
   - re-consult surgery regarding ongoing low-grade fevers,apparent
   abdominal pain, and when he can eat
   .
   # ARF: improving, likely renal hypoperfusion secondary to poor forward
   flow. FeBUN = 23 < 50% (suggestive of prerenal etiology).
   - monitor urine output closely
   - redose renally cleared meds (Zosyn)
   .
   # HYPERNATREMIA: Resolved
   .
   .
   # TRANSAMINITIS: likely due to hypoperfusion in setting of CHF and
   severe AS. Unremarkable RUQ U/S. Improving.
   - trend LFTs;
   .
   # AMS: possibly [**2-5**] oversedation (fentanyl/midazolam) and
   hypernatremia.
   - hypernatremia slowly improving
   - on decreased fentanyl and midazolam doses
   .
   # ANEMIA: Hct 32 now, 39 in [**Month (only) 11**]. Combined iron-deficiency and anemia of
   chronic disease.
   - monitor Hct
   .
   # FEN: replete electrolytes, PPN reordered
   .
   # ACCESS: R Radial A-line, plan for PICC placement when no fevers
   .
   # Dispo: pending
   ICU Care
   Nutrition:
   Peripheral Parenteral Nutrition - [**2198-1-8**] 04:30 PM 42 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2198-1-5**] 04:57 PM
   20 Gauge - [**2198-1-6**] 02:29 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: